US07772244B2
tert-Butyl 2-fluoro-6-formylphenylcarbamate
tert-Butyl 2-fluorophenylcarbamate (42.7 g, 202 mmol) was concentrated from toluene in vacuo (3×) to remove any traces of water. The resulting residue was dissolved in tetrahydrofuran (600 mL), and cooled to −78° C. To this was added tert-butyllithium (1.7 M in pentane, 285 mL, 485 mmol) in dropwise fashion. After addition was complete, the reaction was stirred at −78° C. for 30 minutes. The solution was allowed to gradually warm to −20° C. before re-cooling to −78° C. To this was added dimethylformamide (46.9 mL, 606 mmol). The reaction was allowed to gradually warm to room temperature overnight. The reaction was poured into a separatory funnel containing diethyl ether and water. The organics were washed with water (3×) and concentrated. The combined aqueous washes were neutralized with 1 M potassium bisulfate and extracted with diethyl ether. The ethereal layers were combined with the other organics, washed with water, then brine, dried over magnesium sulfate, and concentrated to give 48.1 g (100%) as a yellow oil which was used without further purification. 1H-NMR (CDCl3, 500 MHz) δ 1.50 (s, 9H), 7.27 (m, 1H), 7.35 (m, 1H), 7.56 (d, J=7.6 Hz, 1H), 7.85 (bs, 1H), 9.99 (d, J=1.2 Hz, 1H). Mass spec.: 262.16 (MNa)+.

reactant | tert-Butyl 2-fluorophenylcarbamate | 202 mmol, 42.7 g | FC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H14FNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyllithium | 485 mmol, 1.7 M, 285 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 606 mmol, 46.9 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butyl 2-fluoro-6-formylphenylcarbamate | FC1=C(C(=CC=C1)C=O)NC(OC(C)(C)C)=O | C12H14FNO3
